US06949571B2
3-(2-Chlorophenyl)-5-phenoxymethyl-1-phenyl-1,2-dihydropyridin-2-one
24 mg of 3-(2-Chlorophenyl)-5-hydroxymethyl-1-phenyl-1,2-dihydropyridin-2-one was dissolved in 10 ml of tetrahydrofuran. 9.4 mg of phenol, 33 mg of triphenylphosphine polymer (3 mmol/g resin) and 17 mg of 1,1,1-azobis(N,N-dimethylformamide) were added thereto, followed by stirring at 60° C. overnight. Further, 50 mg of triphenylphosphine polymer (3 mmol/g resin) and 30 mg of 1,1′-azobis(N,N-dimethylformamide) were added, followed by stirring at 60° C. overnight. After cooling to room temperature, ethyl acetate was added thereto and the triphenylphosphine polymer was removed by filtration through Celite. The filtrate was washed with water and 1N aqueous solution of sodium hydroxide. The organic layer was washed with brine and dried over anhydrous magnesium sulfate. The solvent was evaporated, and the residue was purified by silica gel chromatography (hexane/ethyl acetate system), to give 12 mg of the title compound.

reactant | 3-(2-Chlorophenyl)-5-hydroxymethyl-1-phenyl-1,2-dihydropyridin-2-one | 24 mg | ClC1=C(C=CC=C1)C=1C(N(C=C(C1)CO)C1=CC=CC=C1)=O | C18H14ClNO2
reactant | phenol | 9.4 mg | C1(=CC=CC=C1)O | C6H6O
reactant | triphenylphosphine | 33 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | triphenylphosphine | 50 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 1,1′-azobis(N,N-dimethylformamide) | 30 mg | N(=NC(=O)N(C)C)C(=O)N(C)C | C6H12N4O2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(2-Chlorophenyl)-5-phenoxymethyl-1-phenyl-1,2-dihydropyridin-2-one | 12 mg | ClC1=C(C=CC=C1)C=1C(N(C=C(C1)COC1=CC=CC=C1)C1=CC=CC=C1)=O | C24H18ClNO2
